US08536210B2
Step 1: 1,3-Dimethyl-2,4-dioxo-6-(phenylthio)-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde
The process described in Method D was followed. 6-Chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde (1.50 g, 7.40 mmol) and benzenethiol were used to obtain the title compound.

reactant | 6-Chloro-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | 7.40 mmol, 1.50 g | ClC1=C(C(N(C(N1C)=O)C)=O)C=O | C7H7ClN2O3
reactant | benzenethiol | C1(=CC=CC=C1)S | C6H6S
product | 1,3-Dimethyl-2,4-dioxo-6-(phenylthio)-1,2,3,4-tetrahydropyrimidine-5-carbaldehyde | CN1C(N(C(C(=C1SC1=CC=CC=C1)C=O)=O)C)=O | C13H12N2O3S
